US09085523B2
(10-bromodecyl)benzene (Compound 11)
In diethylether (200 mL), 10-phenyl-1-decanol (10 g) was dissolved, phosphorus tribromide (4.0 mL) was carefully added thereto, at 0° C., followed by stirring at room temperature for 6 hours. Water was added carefully to the reaction solution, followed by extraction with tert-buthylmethylether. The organic layer was washed with water, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to obtain the title compound (7.0 g) having the following physical property values.

reactant | 10-phenyl-1-decanol | 10 g | C1(=CC=CC=C1)CCCCCCCCCCO | C16H26O
reactant | phosphorus tribromide | 4.0 mL | P(Br)(Br)Br | Br3P
reactant | Water | O | H2O
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
product | (10-bromodecyl)benzene | 7.0 g | BrCCCCCCCCCCC1=CC=CC=C1 | C16H25Br
